US04303655
A mixture of ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (12.0 g.) and 1 N sodium hydroxide aqueous solution (93 ml.) was stirred for 1 hour under ice-cooling. After the reaction, to the reaction mixture was added 1 N hydrochloric acid (93 ml.) and the mixture was extracted with ethyl acetate under saturation with sodium chloride. The extract was washed with a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off from the extract, and the residue was washed in diethyl ether, collected by filtration and dried to give 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, (7.3 g.), mp. 148° to 150° C.

reactant | ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)glyoxylate | C(CC)S(=O)(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C10H14N2O5S2
reactant | ethyl 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | C(CC)S(=O)(=O)N=C1SC=C(N1)C(C(=O)OCC)=O | C10H14N2O5S2
reactant | sodium hydroxide | 1 N, 93 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 93 ml | Cl | ClH
product | 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)glyoxylic acid | C(CC)S(=O)(=O)NC=1SC=C(N1)C(C(=O)O)=O | C8H10N2O5S2
